### PR TITLE
[Merged by Bors] - feat(CategoryTheory/KanExtensions): Evaluating `lan` twice amounts to taking a colimit

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 1]
```diff
@@ -56,6 +56,25 @@ noncomputable def isPointwiseLeftKanExtensionLanUnit
...
+lemma lanObjObjIsoColimit_ι_inv
+    (F : C ⥤ H) [HasPointwiseLeftKanExtension L F] (X : D) (f : CostructuredArrow L X) :
+    Limits.colimit.ι _ f ≫ (L.lanObjObjIsoColimit F X).inv =
+    (L.lanUnit.app F).app f.left ≫ (L.lan.obj F).map f.hom := by
+  simp [lanObjObjIsoColimit, LeftExtension.IsPointwiseLeftKanExtension.homFrom,
+    pointwiseLeftKanExtensionIsPointwiseLeftKanExtension]
+
+example (X Y Z : C) (f f' : X ⟶ Y) (g : Z ⟶ X) (h : f = f') : g ≫ f = g ≫ f' := by
+  exact congrArg (CategoryStruct.comp g) h
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:77]:
```suggestion
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 2]
```diff
@@ -56,6 +56,25 @@ noncomputable def isPointwiseLeftKanExtensionLanUnit
     (LeftExtension.mk _ (L.lanUnit.app F)).IsPointwiseLeftKanExtension :=
   isPointwiseLeftKanExtensionOfIsLeftKanExtension (F := F) _ (L.lanUnit.app F)
 
+/-- If a left Kan extension is pointwise, then evaluating it at an object is isomorphic to
+taking a colimit. -/
+noncomputable def lanObjObjIsoColimit (F : C ⥤ H) [HasPointwiseLeftKanExtension L F] (X : D) :
+    (L.lan.obj F).obj X ≅ Limits.colimit (CostructuredArrow.proj L X ⋙ F) :=
+  let e₁ := isPointwiseLeftKanExtensionLanUnit L F
+  let e₂ := pointwiseLeftKanExtensionIsPointwiseLeftKanExtension L F
+  (Comma.rightIso (LeftExtension.isoOfIsPointwiseLeftKanExtension e₁ e₂)).app X
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:65]:
```suggestion
  Limits.IsColimit.coconePointUniqueUpToIso
    (isPointwiseLeftKanExtensionLanUnit L F X)
    (Limits.colimit.isColimit (CostructuredArrow.proj L X ⋙ F))
```
(Actually, this could be generalized as a definition in the `IsPointwiseLeftKanExtensionAt` namespace.)

Most of the definitions in this PR are unnecessary/duplicates: the preferred API instead of `isoOfIsPointwiseLeftKanExtension` is `left/rightKanExtensionUnique` in the `.Basic` file.

Comment (javra) [reply Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:65]: Can you clarify what you mean by "most of"? The two `isoOfIsPointwise...KanExtension` or also the simp lemmas?

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 3]
```diff
@@ -56,6 +56,29 @@ noncomputable def isPointwiseLeftKanExtensionLanUnit
...
 
+/-- If a left Kan extension is pointwise, then evaluating it at an object is isomorphic to
+taking a colimit. -/
+noncomputable def lanObjObjIsoColimit (F : C ⥤ H) [HasPointwiseLeftKanExtension L F] (X : D) :
+    (L.lan.obj F).obj X ≅ Limits.colimit (CostructuredArrow.proj L X ⋙ F) :=
+  Limits.IsColimit.coconePointUniqueUpToIso
+    (isPointwiseLeftKanExtensionLanUnit L F X)
+    (Limits.colimit.isColimit (CostructuredArrow.proj L X ⋙ F))
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:67]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 4]
```diff
@@ -56,6 +56,29 @@ noncomputable def isPointwiseLeftKanExtensionLanUnit
...
+lemma lanObjObjIsoColimit_ι_inv
+    (F : C ⥤ H) [HasPointwiseLeftKanExtension L F] (X : D) (f : CostructuredArrow L X) :
+    Limits.colimit.ι _ f ≫ (L.lanObjObjIsoColimit F X).inv =
+    (L.lanUnit.app F).app f.left ≫ (L.lan.obj F).map f.hom := by
+  simp [lanObjObjIsoColimit]
+
+lemma lanObjObjIsoColimit_lanUnit_map_hom
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:74]:
```suggestion
@[reassoc]
lemma lanObjObjIsoColimit_lanUnit_map_hom
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 5]
```diff
@@ -53,9 +53,30 @@ instance (F : C ⥤ H) : (L.lan.obj F).IsLeftKanExtension (L.lanUnit.app F) := b
 then `L.lan.obj G` is a pointwise left Kan extension of `F`. -/
 noncomputable def isPointwiseLeftKanExtensionLanUnit
     (F : C ⥤ H) [HasPointwiseLeftKanExtension L F] :
-    (LeftExtension.mk _ (L.lanUnit.app F)).IsPointwiseLeftKanExtension :=
+    (LeftExtension.mk _ (leftKanExtensionUnit L F)).IsPointwiseLeftKanExtension :=
```
Comment (javra) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:56]: Hmm, I changed this in order to not have to create local instances of `Limits.HasColimit (CostructuredArrow.proj L X ⋙ (𝟭 (C ⥤ H)).obj F)`  in the new lemmas, but it causes problems further down in `Functor.Flat`. Should I revert it and have the loacl instances? @joelriou

Comment (javra) [reply Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:56]: Ah, nevermind, I noticed I just need to add a `(F := F)`

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 6]
```diff
@@ -56,6 +56,28 @@ noncomputable def isPointwiseLeftKanExtensionLanUnit
...
+    (L.lanUnit.app F).app f.left ≫ (L.lan.obj F).map f.hom := by
+  simp [lanObjObjIsoColimit, lanUnit]
+
+@[reassoc (attr := simp)]
+lemma lanObjObjIsoColimit_lanUnit_map_hom
+    (F : C ⥤ H) [HasPointwiseLeftKanExtension L F] (X : D) (f : CostructuredArrow L X) :
+    (L.lanUnit.app F).app f.left ≫ (L.lan.obj F).map f.hom ≫ (L.lanObjObjIsoColimit F X).hom =
+    Limits.colimit.ι (CostructuredArrow.proj L X ⋙ F) f := by
+  exact LeftExtension.IsPointwiseLeftKanExtensionAt.ι_isoColimit_hom (F := F)
+    (isPointwiseLeftKanExtensionLanUnit L F X) f
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:79]: Untested, but if this works, this is the preferred syntax:
```suggestion
    Limits.colimit.ι (CostructuredArrow.proj L X ⋙ F) f :=
  LeftExtension.IsPointwiseLeftKanExtensionAt.ι_isoColimit_hom (F := F)
    (isPointwiseLeftKanExtensionLanUnit L F X) f
```
(Same remark for the dual statement.)

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 7]
```diff
@@ -56,6 +56,28 @@ noncomputable def isPointwiseLeftKanExtensionLanUnit
...
 
+/-- If a left Kan extension is pointwise, then evaluating it at an object is isomorphic to
+taking a colimit. -/
+noncomputable def lanObjObjIsoColimit (F : C ⥤ H) [HasPointwiseLeftKanExtension L F] (X : D) :
+    (L.lan.obj F).obj X ≅ Limits.colimit (CostructuredArrow.proj L X ⋙ F) :=
+  LeftExtension.IsPointwiseLeftKanExtensionAt.isoColimit (F := F)
+   (isPointwiseLeftKanExtensionLanUnit L F X)
+
+@[reassoc (attr := simp)]
+lemma lanObjObjIsoColimit_ι_inv
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:67]:
```suggestion
lemma ι_lanObjObjIsoColimit_inv
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 8]
```diff
@@ -56,6 +56,28 @@ noncomputable def isPointwiseLeftKanExtensionLanUnit
...
+    (F : C ⥤ H) [HasPointwiseLeftKanExtension L F] (X : D) (f : CostructuredArrow L X) :
+    Limits.colimit.ι _ f ≫ (L.lanObjObjIsoColimit F X).inv =
+    (L.lanUnit.app F).app f.left ≫ (L.lan.obj F).map f.hom := by
+  simp [lanObjObjIsoColimit, lanUnit]
+
+@[reassoc (attr := simp)]
+lemma lanObjObjIsoColimit_lanUnit_map_hom
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:74]:
```suggestion
lemma ι_lanObjObjIsoColimit_hom
```
(Alternatively, a longer name could be given, but it should have `lanObjObjIsoColimit_hom` as a suffix in order to follow naming conventions.)

**Comment by joelriou** [comment]
Apart from my last two suggestions about names, I think this can be merged soon.

**Comment by joelriou** [comment]
Thanks!

bors merge
